US08242125B2
50-E. (±)-6-Methyl-4-oxo-4,5,6,8-tetrahydro-3H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
To a mixture of 6-methyl-7-(1-phenyl-ethyl)-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one, (6.8 g, 25.2 mmol), ammonium formate (7.96 g, 126 mmol), BOC-anhydride (8.27 g, 37.9 mmol), MeOH (250 mL), and THF (167 mL) is added 10% Pd/C (1.36 g, 20% w/w) and the reaction is heated at reflux for 3 h. The mixture is then filtered through a Celite® pad and the filterate is concentrated. The residue is purified via FCC (1-10% MeOH/DCM) to give the title compound. MS (ESI) m/z 266.1 (M+H).

reactant | 6-methyl-7-(1-phenyl-ethyl)-5,6,7,8-tetrahydro-3H-pyrido[3,4-d]pyrimidin-4-one | 25.2 mmol, 6.8 g | CC1CC2=C(N=CNC2=O)CN1C(C)C1=CC=CC=C1 | C16H19N3O
reactant | ammonium formate | 126 mmol, 7.96 g | C(=O)[O-].[NH4+]
reactant | MeOH | 250 mL | CO | CH4O
reactant | THF | 167 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.36 g | [Pd] | Pd
product | (±)-6-Methyl-4-oxo-4,5,6,8-tetrahydro-3H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CNC(C2CC1C)=O | C13H19N3O3
